US05100874
HCl·Pro-OEt (10.8 g; 60.1 mmol) was dissolved in THF (70 ml). After TEA (8.4 ml; 60.0 mmol) was added dropwise under ice cooling, HOBt (7.43 g; 55.0 mmol) and Boc-Gly-OH (8.76 g; 50.0 mmol) were added. The mixture was cooled with a coolant at -20° C. and DCC (13.4 g; 65.0 mmol) dissolved in THF (30 ml) was added dropwise. The reaction was carried out for 1 hour at -10° C. and overnight in a refrigerator. Insolubles were removed by filtration and the solvent was distilled off under reduced pressure. The residue was purified by chromatography on silica gel (Fuji Davison BW 200, 250 g; eluted with AcOEt: n-hexane (=3:2) mixed solvent) and then recrystallized from AcOEt-n-hexane to give Boc-Gly-Pro-OEt (10.5 g; 85%) as colorless plates. m.p. 56.5°-57.0° C., specific rotation [α]D28 -84.9 (c=1.0, EtOH).

reactant | HOBt | 55.0 mmol, 7.43 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Boc-Gly-OH | 50.0 mmol, 8.76 g | N(CC(=O)O)C(=O)OC(C)(C)C | C7H13NO4
reactant | DCC | 65.0 mmol, 13.4 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | THF | 70 ml | C1CCOC1 | C4H8O
reactant | THF | 30 ml | C1CCOC1 | C4H8O
product | Boc-Gly-Pro-OEt | 10.5 g, 85% | N(CC(=O)N1[C@H](C(=O)OCC)CCC1)C(=O)OC(C)(C)C | C14H24N2O5
